US04224321
2,3,4,5,11,15b-hexahydro-2-methyl-1H-dibenz[3,4:6,7]azepino[1,2-a](1,4)diazepine.
4.76 g 5,6-dihydro-6-methylaminomethyl-11H-dibenzo[b,e]azepine is dissolved in 125 ml dibromopropane and 5 ml triethylamine is added to the solution. The mixture is boiled under reflux with stirring for 2 hours, after which it is cooled. 150 ml Water is then added and the whole is shaken for a little while, after which the aqueous layer is separated from the dibromopropane layer. The organic layer is subsequently dried over sodium sulphate and evaporated to dryness under vacuum. The residue is further purified chromatographically on a silica gel column with methanol:acetone (9:1) as eluent.

reactant | 5,6-dihydro-6-methylaminomethyl-11H-dibenzo[b,e]azepine | 4.76 g | CNCC1C2=C(CC3=C(N1)C=CC=C3)C=CC=C2 | C16H18N2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | Water | 150 ml | O | H2O
reactant | dibromopropane | 125 ml | BrC(C)(C)Br | C3H6Br2
product | 2,3,4,5,11,15b-hexahydro-2-methyl-1H-dibenz[3,4:6,7]azepino[1,2-a](1,4)diazepine | CN1CC2N(CCC1)C1=C(CC3=C2C=CC=C3)C=CC=C1 | C19H22N2
